US05733476
On an ice-common salt bath, 6.25 ml of bromine was added dropwise to a solution of 15.1 g of sodium hydroxide in 100 ml of water under stirring and cooling. To a solution of 6.50 g of 5-acetyl-2-methyl coumaran (Ml) in 100 ml of dioxane, the above mixture (i.e., hypobromous acid solution) was added dropwise at 3°-8° C. under cooling on an ice bath. The ice bath was removed after the addition. The resultant mixture was stirred for 3.5 hours at room temperature. After the reaction, the reaction mixture was poured into 500 ml of ice water, followed by addition of 30 ml of hydrochloric acid to precipitate a crystal. The crystal was recovered by filtration and washed with water. The resultant crystal was dried under reduced pressure, followed by washing with hexane and isopropyl ether successively to obtain 3.77 g of 5-carboxy-2-methylcoumaran (M2) (Yield: 57.4%).

reactant | bromine | 6.25 ml | BrBr | Br2
reactant | sodium hydroxide | 15.1 g | [OH-].[Na+]
reactant | 5-acetyl-2-methyl coumaran | 6.50 g | C(C)(=O)C=1C=C2CC(OC2=CC1)C | C11H12O2
reactant | hypobromous acid | BrO | BrHO
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-carboxy-2-methylcoumaran | 3.77 g, Yield: 57.4% | C(=O)(O)C=1C=C2CC(OC2=CC1)C | C10H10O3
